US06362177B1
Reductive amination of 4-(aminomethyl)-1-(4-chlorobenzyl)piperidine (120 mg) with 2,2-diphenylacetaldehyde (0.66 equiv.) and polymer-supported borohydride in methanol at 25° C. for 16 h, followed by general workup and column chromatography (SiO2) afforded 1-(4-chlorobenzyl)-4-{N-(2,2-diphenylethyl)aminomethyl}piperidine (70 mg, 49%): The purity was determined by RPLC (98%).

reactant | 4-(aminomethyl)-1-(4-chlorobenzyl)piperidine | 120 mg | NCC1CCN(CC1)CC1=CC=C(C=C1)Cl | C13H19ClN2
reactant | 2,2-diphenylacetaldehyde | 0.66 equiv. | C1(=CC=CC=C1)C(C=O)C1=CC=CC=C1 | C14H12O
reactant | borohydride | [BH4-]
solvent | methanol | CO | CH4O
product | 1-(4-chlorobenzyl)-4-{N-(2,2-diphenylethyl)aminomethyl}piperidine | 70 mg, 49% | ClC1=CC=C(CN2CCC(CC2)CNCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C27H31ClN2
